US07507740B2
(ii) Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-propyl-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-propyl-5H-pyrrolo[3,2-d]pyrimidine (80 mg) in 1-methyl-2-pyrrolidone (0.8 mL) was added 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (193 mg), and the reaction mixture was stirred at 120° C. for 2 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (25 mL), and extracted with ethyl acetate (30 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent:ethyl acetate/methanol=100/0→95/5). The object fraction was concentrated under reduced pressure. To the residue was added a mixed solvent of diisopropyl ether and chloroform. The resultant precipitate was collected by filtration and dried under reduced pressure to give the title compound (96 mg) as a pale-purple powder.

reactant | 4-chloro-5-propyl-5H-pyrrolo[3,2-d]pyrimidine | 80 mg | ClC=1C2=C(N=CN1)C=CN2CCC | C9H10ClN3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 193 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-propyl-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 96 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CCC | C22H20ClFN4O
